US06177400B1
Preparation of 2,2,4-trimethyl-1-cyclohexanemethanol
The procedure described in the above Example 3 was repeated, using 20 g (0.13 mole) of 2,2,4-trimethyl-1-cyclohexanecarbaldehyde and 1.7 g (45 mmole) of LiAlH4 in 200 ml of diethyl ether. Distillation at 50°/0.5 hPa afforded 18.6 g (92%) of pure product, composed of about 90% of trans and 10% of cis-isomer.

reactant | 2,2,4-trimethyl-1-cyclohexanecarbaldehyde | 0.13 mole, 20 g | CC1(C(CCC(C1)C)C=O)C | C10H18O
reactant | LiAlH4 | 45 mmole, 1.7 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 2,2,4-trimethyl-1-cyclohexanemethanol | 18.6 g, 92% | CC1(C(CCC(C1)C)CO)C | C10H20O
